US05932601
In substantially the same manner as in Working Example 9, 5-[3-(4-hydroxy-3-methoxyphenyl)propyl]-2,4-oxazolidinedione was allowed to react with 4-chloromethyl-2-[(E)-styryl]thiazole to yield 5-[3-[3-methoxy-4-[2-[(E)-styryl]-4-thiazolylmethoxy]-phenyl]propyl]-2,4-oxazolidinedione. The product was recrystallized from chloroform-methanol to give colorless prisms, m.p.202-203° C.

reactant | 5-[3-(4-hydroxy-3-methoxyphenyl)propyl]-2,4-oxazolidinedione | OC1=C(C=C(C=C1)CCCC1C(NC(O1)=O)=O)OC | C13H15NO5
reactant | 4-chloromethyl-2-[(E)-styryl]thiazole | ClCC=1N=C(SC1)\C=C\C1=CC=CC=C1 | C12H10ClNS
product | 5-[3-[3-methoxy-4-[2-[(E)-styryl]-4-thiazolylmethoxy]-phenyl]propyl]-2,4-oxazolidinedione | COC=1C=C(C=CC1OCC=1N=C(SC1)\C=C\C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C25H24N2O5S
